US07132426B2
Preparation of {4-[1-(3,5-Bis-trifluoromethyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-cyclohexyl}-carbamic acid tert-butyl ester (Compound A44)
1-(3,5-Bis-trifluoromethyl-phenyl)-4-chloro-1H-pyrazolo[3,4-d]pyrimidine (147 mg, 0.4 mmol), (4-amino-cyclohexyl)-carbamic acid tert-butyl ester (0.44 mmole, 1.1 eq) and diisopropylethyl amine (0.44 mmol, 1.1 eq) were dissolved in THF (3 mL) and then stirred at room temperature over night. THF was removed in vacuo and the solid residue was re-dissolved in 30/70 mixture of water and ACN gave yellow solid. The solid was washed with water and dried in vacuo provided compound A44 as creamy green solid (179 mg, 82%). 1H NMR (CDCl3, 400 MHz) δ 1.43 (s, 9H), 1.75 (m, 2H), 1.98–1.97 (m, 2H), 2.04 (m, 2H), 2.95 (sb, 2H), 4.12 (q, 1H), 4.62 (m, 1H), 7.80 (s, 1H), 8.09 (s, 1H), 8.50 (s, 1H), 8.94 (m, 2H). Exact mass calculated for C24H26F6N6O2 544.2, Found 545.5 (MH+).

reactant | 1-(3,5-Bis-trifluoromethyl-phenyl)-4-chloro-1H-pyrazolo[3,4-d]pyrimidine | 0.4 mmol, 147 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)N1N=CC=2C1=NC=NC2Cl)(F)F | C13H5ClF6N4
reactant | (4-amino-cyclohexyl)-carbamic acid tert-butyl ester | 0.44 mmole, 1.1 eq | C(C)(C)(C)OC(NC1CCC(CC1)N)=O | C11H22N2O2
reactant | diisopropylethyl amine | 0.44 mmol, 1.1 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | {4-[1-(3,5-Bis-trifluoromethyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-cyclohexyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCC(CC1)NC1=C2C(=NC=N1)N(N=C2)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O | C24H26F6N6O2
